US04006160
In this example 0.500 grams (0.0028 mol) of 2-chloroquinoxaline 1-oxide and 0.500 grams (0.0080 mol) of sodium azide were added to and dissolved in 35 ml of acetone and 35 ml of water. The solution was stirred at 25° C for 60 hours. The acetone was evaporated in vacuo and the resulting aqueous solution was extracted with methylene chloride. The organic phase was introduced onto a basic alumina column. Elution with chloroform gave 2 azidoquinoxaline-oxide in a yield of 0.080 grams or 16% of theory which was immediately decomposed in boiling benzene for 1 hour. Evaporation of the solvent gave 2-cyanobenzimidazole N-oxide which is tautomeric with N-hydroxy-2-cyanobenzimidazole in a yield of 0.020 grams or 30% of theory having a melting point of 236° C to 238° C with decomposition.

reactant | 2-chloroquinoxaline 1-oxide | 0.0028 mol, 0.500 grams | ClC1=[N+](C2=CC=CC=C2N=C1)[O-] | C8H5ClN2O
reactant | sodium azide | 0.0080 mol, 0.500 grams | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 35 ml | CC(=O)C | C3H6O
solvent | water | 35 ml | O | H2O
product | azidoquinoxaline-oxide | N(=[N+]=[N-])C1=[N+](C2=CC=CC=C2N=C1)[O-] | C8H5N5O
